US03961072
An aqueous mixture consisting of 10 g. of 1-(3-aminophenoxy)-3-[2-(4-carbamoylphenoxy)ethylamino]propan-2-ol in 150 ml. of water was adjusted to pH 4-5 with dilute hydrochloric acid and then stirred vigorously for several minutes in order to effect complete solution. At this point, 3 g. of acetic anhydride were added to the mixture in a dropwise manner and the pH of the resulting solution was simultaneously maintained within the aforestated pH range by means of dilute aqueous sodium hydroxide. After further stirring the spent reaction mixture for a period of 1 hour, it was subsequently basified with additional dilute aqueous sodium hydroxide solution and the resulting solid precipitate with formed at this point was thereafter collected by means of suction filtration to give 1-(3-acetamidophenoxy)-3-[2-(4-carbamoylphenoxy)ethylamino]propan-2-ol as a white crystalline base, m.p. 164°-165°C. The analytical sample was then recrystallized from aqueous ethanol, but the melting point remained constant.

reactant | 1-(3-aminophenoxy)-3-[2-(4-carbamoylphenoxy)ethylamino]propan-2-ol | NC=1C=C(OCC(CNCCOC2=CC=C(C=C2)C(N)=O)O)C=CC1 | C18H23N3O4
reactant | hydrochloric acid | Cl | ClH
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(3-acetamidophenoxy)-3-[2-(4-carbamoylphenoxy)ethylamino]propan-2-ol | C(C)(=O)NC=1C=C(OCC(CNCCOC2=CC=C(C=C2)C(N)=O)O)C=CC1 | C20H25N3O5
